US06417202B1
3-Ethoxycarbony-4-methyl-5phenyl-2-(4-pyridyl)-1H-pyrrole
A mixture of 1-amino-1-phenyl-propan-2-on hydrochloride (10.5 g, 50.5 mmol), ethyl isonicotinoylacetate (8.1 g, 42.1 mmol), and ammonium acetate (6.5 g, 84.2 mmol) in acetic acid (50 mL) was heated under reflux temperature for 6 hours. After cooling, the mixture was diluted with ice-water (50 mL). The whole was extracted with CH2Cl2 (30 mL×3), and the combined organic layers were dried over MgSO4, and concentrated in vaciio. The residue was purified by flash chromatography eluting with hexane-ethyl acetate (2 : 1) to afford the title product (2.1 g, 16% yield) as a pale yellow solid.

reactant | 1-amino-1-phenyl-propan-2-on hydrochloride | 50.5 mmol, 10.5 g | Cl.NC(C(C)=O)C1=CC=CC=C1
reactant | ethyl isonicotinoylacetate | 42.1 mmol, 8.1 g | C(C1=CC=NC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | ammonium acetate | 84.2 mmol, 6.5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3-Ethoxycarbony-4-methyl-5phenyl-2-(4-pyridyl)-1H-pyrrole | 2.1 g, 16% yield | C(C)OC(=O)C1=C(NC(=C1C)C1=CC=CC=C1)C1=CC=NC=C1 | C19H18N2O2
